* ECEN4827/5827 library
* DM 10/25/2006
*
* 0.35u CMOS process
*
* NMOS transistor model name: NMOS4
* PMOS transistor model name: PMOS4
* Positive TC resistor subcircuit name: RPP
* Negative TC resistor subcircuit name: RPN

* ----------------------------------------------------------------------
* NMOS transistor model 
* 
.MODEL NMOS4 NMOS LEVEL=49 
* ----------------------------------------------------------------------
************************* SIMULATION PARAMETERS ************************
* ----------------------------------------------------------------------
* format    : HSPICE
* model     : MOS BSIM3v3
* process   : CS[ADFI]
* revision : 2; 
* extracted : CSA C61417; 2000-12; ese(5487)
* doc#      : 9933016 REV_2
* ----------------------------------------------------------------------
*                        TYPICAL MEAN CONDITION
* ----------------------------------------------------------------------
*
*        *** Flags ***
+MOBMOD =1.000e+00 CAPMOD =2.000e+00 NOIMOD =1.000e+00 VERSION=3.1       
*        *** Threshold voltage related model parameters ***
+K1     =6.044e-01 
+K2     =2.945e-03 K3     =-1.72e+00 K3B    =6.325e-01 
+NCH    =2.310e+17 VTH0   =4.655e-01 
+VOFF   =-5.72e-02 DVT0   =2.227e+01 DVT1   =1.051e+00 
+DVT2   =3.393e-03 KETA   =-6.21e-04 
+PSCBE1 =2.756e+08 PSCBE2 =9.645e-06 
+DVT0W  =0.000e+00 DVT1W  =0.000e+00 DVT2W  =0.000e+00 
*        *** Mobility related model parameters ***
+UA     =1.000e-12 UB     =1.723e-18 UC     =5.756e-11 
+U0     =4.035e+02 
*        *** Subthreshold related parameters ***
+DSUB   =5.000e-01 ETA0   =3.085e-02 ETAB   =-3.95e-02 
+NFACTOR=1.119e-01 
*        *** Saturation related parameters ***
+EM     =4.100e+07 PCLM   =6.831e-01 
+PDIBLC1=1.076e-01 PDIBLC2=1.453e-03 DROUT  =5.000e-01 
+A0     =2.208e+00 A1     =0.000e+00 A2     =1.000e+00 
+PVAG   =0.000e+00 VSAT   =1.178e+05 AGS    =2.490e-01 
+B0     =-1.76e-08 B1     =0.000e+00 DELTA  =1.000e-02 
+PDIBLCB=2.583e-01 
*        *** Geometry modulation related parameters ***
+W0     =1.184e-07 DLC    =2.900e-08 
+DWC    =2.676e-08 DWB    =0.000e+00 DWG    =0.000e+00 
+LL     =0.000e+00 LW     =0.000e+00 LWL    =0.000e+00 
+LLN    =1.000e+00 LWN    =1.000e+00 WL     =0.000e+00 
+WW     =0.000e+00 WWL    =0.000e+00 WLN    =1.000e+00 
+WWN    =1.000e+00 
*        *** Temperature effect parameters ***
+AT     =3.300e+04 UTE    =-1.80e+00 
+KT1    =-3.30e-01 KT2    =2.200e-02 KT1L   =0.000e+00 
+UA1    =0.000e+00 UB1    =0.000e+00 UC1    =0.000e+00 
+PRT    =0.000e+00 
*        *** Overlap capacitance related and dynamic model parameters   ***
+CGDO   =1.120e-10 CGSO   =1.120e-10 CGBO   =1.100e-10 
+CGDL   =1.350e-10 CGSL   =1.350e-10 CKAPPA =6.000e-01 
+CF     =0.000e+00 ELM    =5.000e+00 
+XPART  =1.000e+00 CLC    =1.000e-15 CLE    =6.000e-01 
*        *** Parasitic resistance and capacitance related model parameters ***
+RDSW   =6.043e+02 
+CDSC   =0.000e+00 CDSCB  =0.000e+00 CDSCD  =8.448e-05 
+PRWB   =0.000e+00 PRWG   =0.000e+00 CIT    =1.000e-03 
*        *** Process and parameters extraction related model parameters ***
+TOX    =7.700e-09 NGATE  =0.000e+00 
+NLX    =1.918e-07 
+XL     =5.000e-08 XW     =0.000e+00 
*        *** Substrate current related model parameters ***
+ALPHA0 =0.000e+00 BETA0  =3.000e+01 
*        *** Noise effect related model parameters ***
+AF     =1.400e+00 KF     =2.810e-27 EF     =1.000e+00 
+NOIA   =1.000e+20 NOIB   =5.000e+04 NOIC   =-1.40e-12 
+NLEV   =0 
*        *** Common extrinsic model parameters ***
+ACM    =2        
+RD     =0.000e+00 RS     =0.000e+00 RSH    =8.200e+01 
+RDC    =0.000e+00 RSC    =0.000e+00 
+LINT   =8.285e-09  WINT   =2.676e-08 
+LDIF   =0.000e+00 HDIF   =6.000e-07 WMLT   =1.000e+00 
+LMLT   =1.000e+00 XJ     =3.000e-07 
+JS     =2.000e-05 JSW    =0.000e+00 IS     =0.000e+00 
+N      =1.000e+00 NDS    =1000. VNDS   =-1.000e+00 
+CBD    =0.000e+00 CBS    =0.000e+00 CJ     =9.300e-04 
+CJSW   =2.800e-10 FC     =0.000e+00 
+MJ     =3.100e-01 MJSW   =1.900e-01 TT     =0.000e+00 
+PB     =6.900e-01 PHP    =6.900e-01 
* ----------------------------------------------------------------------


* PMOS transistor model 
* 
.MODEL PMOS4 PMOS LEVEL=49 
* ----------------------------------------------------------------------
************************* SIMULATION PARAMETERS ************************
* ----------------------------------------------------------------------
* format    : HSPICE
* model     : MOS BSIM3v3
* process   : CS[ADFI]
* revision : 2; 
* extracted : CSA C61417 A64770; 2000-12; ese(5487)
* doc#      : 9933016 REV_2
* ----------------------------------------------------------------------
*                        TYPICAL MEAN CONDITION
* ----------------------------------------------------------------------
*
*        *** Flags ***
+MOBMOD =1.000e+00 CAPMOD =2.000e+00 NOIMOD =1.000e+00 VERSION=3.1       
*        *** Threshold voltage related model parameters ***
+K1     =5.675e-01 
+K2     =-4.39e-02 K3     =4.540e+00 K3B    =-8.52e-01 
+NCH    =1.032e+17 VTH0   =-6.17e-01 
+VOFF   =-1.13e-01 DVT0   =1.482e+00 DVT1   =3.884e-01 
+DVT2   =-1.15e-02 KETA   =-2.56e-02 
+PSCBE1 =1.000e+09 PSCBE2 =1.000e-08 
+DVT0W  =0.000e+00 DVT1W  =0.000e+00 DVT2W  =0.000e+00 
*        *** Mobility related model parameters ***
+UA     =2.120e-10 UB     =8.290e-19 UC     =-5.28e-11 
+U0     =1.296e+02 
*        *** Subthreshold related parameters ***
+DSUB   =5.000e-01 ETA0   =2.293e-01 ETAB   =-3.92e-03 
+NFACTOR=8.237e-01 
*        *** Saturation related parameters ***
+EM     =4.100e+07 PCLM   =2.979e+00 
+PDIBLC1=3.310e-02 PDIBLC2=1.000e-09 DROUT  =5.000e-01 
+A0     =1.423e+00 A1     =0.000e+00 A2     =1.000e+00 
+PVAG   =0.000e+00 VSAT   =2.000e+05 AGS    =3.482e-01 
+B0     =2.719e-07 B1     =0.000e+00 DELTA  =1.000e-02 
+PDIBLCB=-1.78e-02 
*        *** Geometry modulation related parameters ***
+W0     =4.894e-08 DLC    =2.900e-08 
+DWC    =3.845e-08 DWB    =0.000e+00 DWG    =0.000e+00 
+LL     =0.000e+00 LW     =0.000e+00 LWL    =0.000e+00 
+LLN    =1.000e+00 LWN    =1.000e+00 WL     =0.000e+00 
+WW     =0.000e+00 WWL    =0.000e+00 WLN    =1.000e+00 
+WWN    =1.000e+00 
*        *** Temperature effect parameters ***
+AT     =3.300e+04 UTE    =-1.35e+00 
+KT1    =-5.70e-01 KT2    =2.200e-02 KT1L   =0.000e+00 
+UA1    =0.000e+00 UB1    =0.000e+00 UC1    =0.000e+00 
+PRT    =0.000e+00 
*        *** Overlap capacitance related and dynamic model parameters   ***
+CGDO   =7.420e-11 CGSO   =7.420e-11 CGBO   =1.100e-10 
+CGDL   =1.290e-10 CGSL   =1.290e-10 CKAPPA =6.000e-01 
+CF     =0.000e+00 ELM    =5.000e+00 
+XPART  =1.000e+00 CLC    =1.000e-15 CLE    =6.000e-01 
*        *** Parasitic resistance and capacitance related model parameters ***
+RDSW   =1.853e+03 
+CDSC   =6.994e-04 CDSCB  =2.943e-04 CDSCD  =1.970e-04 
+PRWB   =0.000e+00 PRWG   =0.000e+00 CIT    =1.173e-04 
*        *** Process and parameters extraction related model parameters ***
+TOX    =7.700e-09 NGATE  =0.000e+00 
+NLX    =1.770e-07 
+XL     =5.000e-08 XW     =0.000e+00 
*        *** Substrate current related model parameters ***
+ALPHA0 =0.000e+00 BETA0  =3.000e+01 
*        *** Noise effect related model parameters ***
+AF     =1.290e+00 KF     =1.090e-27 EF     =1.000e+00 
+NOIA   =1.000e+20 NOIB   =5.000e+04 NOIC   =-1.40e-12 
+NLEV   =0 
*        *** Common extrinsic model parameters ***
+ACM    =2        
+RD     =0.000e+00 RS     =0.000e+00 RSH    =1.560e+02 
+RDC    =0.000e+00 RSC    =0.000e+00 
+LINT   =-5.64e-08  WINT   =3.845e-08 
+LDIF   =0.000e+00 HDIF   =6.000e-07 WMLT   =1.000e+00 
+LMLT   =1.000e+00 XJ     =3.000e-07 
+JS     =2.000e-05 JSW    =0.000e+00 IS     =0.000e+00 
+N      =1.000e+00 NDS    =1000. VNDS   =-1.000e+00 
+CBD    =0.000e+00 CBS    =0.000e+00 CJ     =1.420e-03 
+CJSW   =3.800e-10 FC     =0.000e+00 
+MJ     =5.500e-01 MJSW   =3.900e-01 TT     =0.000e+00 
+PB     =1.020e+00 PHP    =1.020e+00 
* ----------------------------------------------------------------------

----------------------------------------------------------------------
* Resistor RPN: Rsheet = 1.2KOhm/square, TC=-400 ppm/oC
* ----------------------------------------------------------------------
.SUBCKT RPN N1 N2 PARAMS: W=1e-6 L=1e-6
* ----------------------------------------------------------------------
************************* SIMULATION PARAMETERS ************************
* ----------------------------------------------------------------------
* format    : PSPICE
* model     : RESISTOR
* ----------------------------------------------------------------------
*                        TYPICAL MEAN CONDITION
* ----------------------------------------------------------------------
* PARAMETERS: W,L = device width and length [m]
R1 N1 N2 {1.200e+03*(L-(0.0))/(W-(2.000e-07))} TC=-0.400e-03 
.ENDS RPOLYH
* ----------------------------------------------------------------------


* ----------------------------------------------------------------------
* Resistor RPP: Rsheet = 50 Ohm/square, TC=+830 ppm/oC
* ----------------------------------------------------------------------
.SUBCKT RPP N1 N2 PARAMS: W=1e-6 L=1e-6
* ----------------------------------------------------------------------
************************* SIMULATION PARAMETERS ************************
* ----------------------------------------------------------------------
* format    : PSPICE
* model     : RESISTOR
* ----------------------------------------------------------------------
*                        TYPICAL MEAN CONDITION
* ----------------------------------------------------------------------
* PARAMETERS: W,L = device width and length [m]
R1 N1 N2 {5.00e+01*(L-(0.0))/(W-(2.50e-07))} TC=8.30e-04 
.ENDS RPOLY2
* ----------------------------------------------------------------------

